US07465815B2
3-(4-Isopropylphenyl)-4-methyl-2,3-dihydronaphtho[1,2-b]furan
To a solution of 3-(4-isopropylphenyl)-4-methyl-2,3-dihydronaphtho[1,2-b]furan-5-yl trifluoromethanesulfonate obtained in Reference Example 253 (2.23 g, 4.96 mmol), dichlorobis(triphenylphosphine)palladium (210 mg, 0.30 mmol), 1,3-bis(diphenylphosphino)propane (310 mg, 0.750 mmol) and tributylamine (5 mL, 21 mmol) in toluene (15 mL) was added formic acid (0.5 mL) at room temperature, and the mixture was stirred under argon atmosphere at 90° C. for 16 hours. Water was added to the reaction solution, which was extracted with ethyl acetate, the organic layer was washed with water and a saturated brine and then was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:20) to obtain 270 mg (yield 18%) of the title compound. Oily matter.

reactant | 3-(4-isopropylphenyl)-4-methyl-2,3-dihydronaphtho[1,2-b]furan-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C2=C(OCC2C2=CC=C(C=C2)C(C)C)C2=CC=CC=C12)C)(F)F | C23H21F3O4S
reactant | 1,3-bis(diphenylphosphino)propane | 0.750 mmol, 310 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | tributylamine | 21 mmol, 5 mL | C(CCC)N(CCCC)CCCC | C12H27N
reactant | formic acid | 0.5 mL | C(=O)O | CH2O2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dichlorobis(triphenylphosphine)palladium | 0.30 mmol, 210 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Water | O | H2O
product | 3-(4-Isopropylphenyl)-4-methyl-2,3-dihydronaphtho[1,2-b]furan | 270 mg, yield 18% | C(C)(C)C1=CC=C(C=C1)C1C2=C(OC1)C1=CC=CC=C1C=C2C | C22H22O
